US09260427B2
To zinc (104 mg, 1.59 mmol) stirring in DMF (1.5 mL) was added iodine (20.2 mg, 0.08 mmol). After the color disappeared, (R)-methyl 2-((tert-butoxycarbonyl)amino)-3-iodopropanoate (175 mg, 0.53 mmol) and further iodine (20.2 mg, 0.08 mmol) were added. After 30 min, the mixture was de-gassed by bubbling through N2 then treated with 4-(4-bromophenyl)-2-(4-(heptyloxy)phenyl)oxazole (220 mg, 0.53 mmol), Pd2dba3 (12.2 mg, 0.01 mmol) and dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (10.9 mg, 0.03 mmol) followed by THF (1 mL). The reaction mixture was heated to 50° C. for 2 h, cooled to room temperature and purified by column chromatography (gradient of 15-95% EA in iso-hexanes) to afford 188 mg (65%) of (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(4-(2-(4-(heptyloxy)phenyl)oxazol-4-yl)phenyl)propanoate. LCMS-ESI (m/z) calculated for C31H40N2O6: 536.6. found 537.0 [M+H]+, tR=3.72 min. (Method 11).

reactant | iodine | 0.08 mmol, 20.2 mg | II | I2
reactant | (R)-methyl 2-((tert-butoxycarbonyl)amino)-3-iodopropanoate | 0.53 mmol, 175 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CI | C9H16INO4
reactant | iodine | 0.08 mmol, 20.2 mg | II | I2
reactant | 4-(4-bromophenyl)-2-(4-(heptyloxy)phenyl)oxazole | 0.53 mmol, 220 mg | BrC1=CC=C(C=C1)C=1N=C(OC1)C1=CC=C(C=C1)OCCCCCCC | C22H24BrNO2
reactant | THF | 1 mL | C1CCOC1 | C4H8O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | zinc | 1.59 mmol, 104 mg | [Zn] | Zn
catalyst | Pd2dba3 | 0.01 mmol, 12.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.03 mmol, 10.9 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
product | (S)-methyl 2-((tert-butoxycarbonyl)amino)-3-(4-(2-(4-(heptyloxy)phenyl)oxazol-4-yl)phenyl)propanoate | 188 mg, 65% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)C=1N=C(OC1)C1=CC=C(C=C1)OCCCCCCC | C31H40N2O6
